US06958327B1
7.1 7α-Phenyl-estr-4-ene-3,17-dione
5.76 g of magnesium chips (237 mmol) is suspended in 60 ml of anhydrous THF, and a total of 36.1 g of bromobenzene (230 mmol), dissolved in 100 ml of anhydrous THF, is added slowly and then quickly to start the reaction, and it is heated for 1 hour to 80° C. The mixture of 24 g of copper(I) iodide (120 mmol) and 43 g of lithium bromide (480 mmol) in 115 ml of anhydrous THL is heated to about 50° C., then 40 ml of DMPU is added, and it is stirred for 30 minutes. The solution of phenylmagnesium iodide is cooled to −60° C., and it is slowly mixed with the solution of the copper salt. Then, it is kept at −30° C. for 15 minutes, cooled again to −65° C. and mixed with a solution of 12.4 g of estra-4,6-diene-3,17-dione (46 mmol) in 115 ml of anhydrous THF. After the last addition, the mixture is allowed to heat to −5° C. within 45 minutes, it is cooled again to −40° C., and 15 ml of trimethylchlorosilane (115 mmol) is added. During the next 45 minutes, the internal temperature increases to −18° C., it is mixed with 15 ml of glacial acetic acid, the cooling bath is removed, and it is stirred for another hour. Then, it is diluted with ethyl acetate, washed with semisaturated ammonium chloride solution, saturated bicarbonate solution and common salt solution, the organic phase is dried with sodium sulfate, and the solvent is concentrated by evaporation. The residue is chromatographed on silica gel with hexane, methylene chloride and ethyl acetate. The yield of 7α-phenyl-estr-4-ene-3,17-dione is 8.6 g (54% of theory).

reactant | magnesium | 5.76 g | [Mg] | Mg
reactant | bromobenzene | 230 mmol, 36.1 g | BrC1=CC=CC=C1 | C6H5Br
reactant | lithium bromide | 480 mmol, 43 g | [Br-].[Li+]
reactant | phenylmagnesium iodide | C1(=CC=CC=C1)[Mg]I
reactant | estra-4,6-diene-3,17-dione | 46 mmol, 12.4 g | C[C@@]12C(CC[C@H]1[C@@H]1C=CC3=CC(CC[C@@H]3[C@H]1CC2)=O)=O | C18H22O2
reactant | trimethylchlorosilane | 115 mmol, 15 ml | C[Si](Cl)(C)C | C3H9ClSi
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 115 ml | C1CCOC1 | C4H8O
catalyst | copper(I) iodide | 120 mmol, 24 g | [Cu]I
catalyst | copper | [Cu] | Cu
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | DMPU | 40 ml | CN1CCCN(C1=O)C | C6H12N2O
product | 7α-Phenyl-estr-4-ene-3,17-dione | C1(=CC=CC=C1)[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@H]2CCC(C=C2C1)=O)=O | C24H28O2
